US07705156B2
Lithium chloride (0.11 g, 2.5 mmol) was weighed into an oven-dried, nitrogen-swept 50 mL 3-necked flask and the flask placed under vacuum and heated with a heat gun, cooled and back filled with nitrogen. Copper(I) iodide (0.24 g, 1.3 mmol) and THF (5 mL) were added and the mixture stirred to give homogenous yellow solution. 2-Chloro-5-iodopyridine (3.1 g, 13.1 mmol) was dissolved in THF (25 mL) in an oven dried, nitrogen-swept 100 mL 3-necked flask and the solution cooled to −40° C. under nitrogen and treated with i-PrMgCl (1.4 g, 13.7 mmol, 6.9 mL of a 2 M solution in THF) keeping the internal temperature below −35° C. The flask containing the solubilized copper iodide was treated with trimethylsilyl chloride (1.4 g, 12.4 mmol) and cyclopentenone (1.0 g, 12.4 mmol, filtered through alumina) and cooled to −40° C. and added drop wise, via cannula, to the slurry of the Grignard reagent keeping the internal temperature below −35° C. The mixture was allowed to warm to room temperature over 2 h then diluted with saturated (sat.) NH4Cl/EtOAc and the layers separated, the organic layer dried (Na2SO4), filtered, concentrated and purified by flash silica gel chromatography (hexanes: EtOAc/25:1→2:1) to give 2-chloro-5-(3-trimethylsilanyloxycyclopent-2-enyl)pyridine (0.58 g, 18%) as an oil. 1H NMR (300 MHz, CDCl3) δ 8.22 (d, 1H, J=2.4 Hz), 7.48 (dd, 1H, J=8.1, 2.4 Hz), 7.23 (d, 1H, J=8.1 Hz), 4.66 (m, 1H), 3.87 (m, 1H), 2.39 (m, 3H), 1.63 (m, 1H), 0.25 (s, 9H). The bulk of the material isolated from this reaction was 2-chloropyridine.

reactant | Lithium chloride | 2.5 mmol, 0.11 g | [Cl-].[Li+]
reactant | 2-Chloro-5-iodopyridine | 13.1 mmol, 3.1 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | trimethylsilyl chloride | 12.4 mmol, 1.4 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | cyclopentenone | 12.4 mmol, 1.0 g | C1(C=CCC1)=O | C5H6O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | NH4Cl EtOAc | [NH4+].[Cl-].CCOC(=O)C
catalyst | Copper(I) iodide | 1.3 mmol, 0.24 g | [Cu]I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-chloro-5-(3-trimethylsilanyloxycyclopent-2-enyl)pyridine | 0.58 g, 18% | ClC1=NC=C(C=C1)C1C=C(CC1)O[Si](C)(C)C | C13H18ClNOSi
